US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-2,2-dimethylpiperazine hydrochloride
To a methylene chloride solution (0.5 ml) of 4-(tert-butoxycarbonyl)-1-[(6-chloronaphthalen-2-yl)sulfonyl]-2,2-dimethylpiperazine (140 mg) was added a saturated solution (0.5 ml) of hydrochloride in ethanol. The resulting mixture was stirred at room temperature for 14 hours. Ethanol was added to the reaction mixture. After the sufficient removal of hydrochloric acid by azeotropy, the residue was dried using a vacuum pump, whereby the title compound (119 mg) was obtained as a colorless solid.

reactant | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
reactant | 4-(tert-butoxycarbonyl)-1-[(6-chloronaphthalen-2-yl)sulfonyl]-2,2-dimethylpiperazine | 140 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)(C)C | C21H27ClN2O4S
reactant | hydrochloride | 0.5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-2,2-dimethylpiperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1C(CNCC1)(C)C | InChI=1S/C16H19ClN2O2S.ClH/c1-16(2)11-18-7-8-19(16)22(20,21)15-6-4-12-9-14(17)5-3-13(12)10-15;/h3-6,9-10,18H,7-8,11H2,1-2H3;1H
